US08871361B2
Synthesis of 2-(3-iodophenyl)-1-phenyl-1H-imidazole
To a 500 mL round bottom flask was added 3-iodo-N-phenylbenzimidamide (7.84 g, 24.34 mmol), 2-chloroacetaldehyde solution (50%, 6.7 mL, 48.7 mmol), sodium bicarbonate (4.09 g, 48.7 mmol), and 150 mL 2-propanol. The reaction mixture was heated at reflux for 3 h under nitrogen. The solvent was removed under vacuum and the residue dissolved in ethyl acetate. The ethyl acetate solution was washed with water, brine, dried over magnesium sulfate, filtered, and evaporated. The residue was purified by column chromatography eluting with 20-40% ethyl acetate/hexane (4.67 g, 55%).

reactant | 3-iodo-N-phenylbenzimidamide | 24.34 mmol, 7.84 g | IC=1C=C(C(NC2=CC=CC=C2)=N)C=CC1 | C13H11IN2
reactant | 2-chloroacetaldehyde | 48.7 mmol, 6.7 mL | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | 48.7 mmol, 4.09 g | C([O-])(O)=O.[Na+]
solvent | 2-propanol | 150 mL | CC(C)O | C3H8O
product | 2-(3-iodophenyl)-1-phenyl-1H-imidazole | IC=1C=C(C=CC1)C=1N(C=CN1)C1=CC=CC=C1 | C15H11IN2
